US07531517B2
1-(2-Amino-3-phenyl-propylideneamino)-imidazolidine-2,4-dione
Z-Trp-Trp-OH (0.1 mmol), 1-Hydroxybenzotriazolhydrate (0.1 mmol), and TBTU (0.1 mmol) were dissolved in dry dimethylformamide and stirred at r.t. After a few minutes Phe-Aminohydantoin (0.11 mmol) solved in dimethylformamide was added in portions and the reaction was allowed to reach room temperature over 18 hours. The solvent was removed and the residue was redissolved in ethyl acetate. The solution was washed with 1 mol/l HCl, and with 10% Na2CO3 and then dried over MgSO4. The reaction was filtered and the solvent was removed in vaccuo. The compound was purified by preparative HPLC.

reactant | Z-Trp-Trp-OH | 0.1 mmol | N([C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O)C(=O)OCC1=CC=CC=C1 | C30H28N4O5
reactant | TBTU | 0.1 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Phe Aminohydantoin | 0.11 mmol | N[C@@H](CC1=CC=CC=C1)C(=O)O.NN1C(=O)NC(=O)C1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-Amino-3-phenyl-propylideneamino)-imidazolidine-2,4-dione | NC(C=NN1C(NC(C1)=O)=O)CC1=CC=CC=C1 | C12H14N4O2
